US07645789B2
A solution of 3-[1-(2-hydroxy-ethyl)-5-nitro-1H-indol-2-yl]-3-methyl-butan-1-ol (300 mg, 1.03 mmol) and Raney Nickel (200 mg) in CH3OH (30 mL) was stirred for 5 h at room temperature under a H2 atmosphere. The catalyst was filtered through a celite pad and the filtrate was evaporated under vacuum to give a residue, which was purified by preparative TLC to afford 3-[5-amino-1-(2-hydroxy-ethyl)-1H-indol-2-yl]-3-methyl-butan-1-ol (70 mg, 26%). 1H NMR (300 MHz, CDCl3) δ 7.07 (d, J=8.7 Hz, 1H), 6.83 (d, J=2.1 Hz, 1H), 6.62 (dd, J=2.1, 8.4 Hz, 1H), 6.15 (s, 1H), 4.47 (t, J=5.4 Hz, 2H), 4.07 (t, J=5.4 Hz, 2H), 3.68 (t, J=5.7 Hz, 2H), 2.16 (t, J=5.7 Hz, 2H), 4.00-3.91 (m, 4H), 2.76 (s, 2H), 1.61 (s, 6H), 1.42 (s, 6H).

reactant | 3-[1-(2-hydroxy-ethyl)-5-nitro-1H-indol-2-yl]-3-methyl-butan-1-ol | 1.03 mmol, 300 mg | OCCN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(CCO)(C)C | C15H20N2O4
catalyst | Raney Nickel | 200 mg | [Ni] | Ni
solvent | CH3OH | 30 mL | CO | CH4O
product | 3-[5-amino-1-(2-hydroxy-ethyl)-1H-indol-2-yl]-3-methyl-butan-1-ol | 70 mg, 26% | NC=1C=C2C=C(N(C2=CC1)CCO)C(CCO)(C)C | C15H22N2O2
